US07468367B2
5-(4-Fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid [2-(benzooxazol-2-ylamino)-ethyl]-amide
A solution of 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid (2-amino-ethyl)-methyl-amide, D5 (120 mg, 0.41 mmol) in THF (7 ml) was treated with triethylamine (0.057 ml) and 2-chlorobenzoxazole (0.047 ml, 0.41 mmol). The reaction mixture was stirred at room temperature, under argon for 16 h then the volatiles removed in vacuo. The residue was chromatographed (silica gel, 25% ethyl acetate-pentane) to afford the title compound as a white solid (97 mg, 58%).

reactant | 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid (2-amino-ethyl)-methyl-amide | NCCN(C(=O)C=1N=C(SC1C1=CC=C(C=C1)F)C)C | C14H16FN3OS
reactant | triethylamine | 0.057 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chlorobenzoxazole | 0.41 mmol, 0.047 ml | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | 5-(4-Fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid [2-(benzooxazol-2-ylamino)-ethyl]-amide | 97 mg, 58% | O1C(=NC2=C1C=CC=C2)NCCNC(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C | C20H17FN4O2S
